US08633313B2
A mixture of 3-amino-5-fluoropicolinaldehyde (930 mg, 6.63 mmol), methyl 3-(2-(methylsulfonyl)phenyl)-3-oxopropanoate (1.7 g, 6.63 mmol) and cerium chloride heptahydrate (435 mg, 1.32 mmol) was heated to 100° C. for 3 h. The residue was dissolved in MeOH and purified by column chromatography on neutral alumina using 0-30% EtOAc in hexane to give methyl 7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridine-3-carboxylate: LC-MS (ESI) m/z 361.0 [M+H]+.

reactant | 3-amino-5-fluoropicolinaldehyde | 6.63 mmol, 930 mg | NC=1C(=NC=C(C1)F)C=O | C6H5FN2O
reactant | methyl 3-(2-(methylsulfonyl)phenyl)-3-oxopropanoate | 6.63 mmol, 1.7 g | CS(=O)(=O)C1=C(C=CC=C1)C(CC(=O)OC)=O | C11H12O5S
reactant | cerium chloride heptahydrate | 1.32 mmol, 435 mg | O.O.O.O.O.O.O.[Cl-].[Ce+3].[Cl-].[Cl-]
solvent | MeOH | CO | CH4O
product | methyl 7-fluoro-2-(2-(methylsulfonyl)phenyl)-1,5-naphthyridine-3-carboxylate | FC1=CN=C2C=C(C(=NC2=C1)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC | C17H13FN2O4S
